US09216980B2
Step 5: 3-[4-(8-Aza-bicyclo[3.2.1]oct-8-ylmethyl)-phenyl]-9-(2-trimethylsilanyl-ethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile
To a solution of imidazole-1-carbothioic acid O-(8-{4-[6-cyano-9-(2-trimethylsilanylethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-3-yl]-benzyl}-8-aza-bicyclo[3.2.1]oct-3-yl) ester (182 mg, 0.28 mmol) and AIBN (60 mg, 0.36 mmol) in toluene (10 mL) under an argon atmosphere was added tributyltin hydride (0.58 mL, 1.85 mmol). On complete addition, the reaction was heated at 110° C. for 15 minutes then allowed to cool to ambient temperature. The mixture was concentrated in vacuo and the resultant residue was purified by flash chromatography (silica, 50 g column, Biotage, 0-5% MeOH in DCM) to afford the title compound as a white solid (123 mg, 84%). 1H NMR (CDCl3, 300 MHz): 9.26 (d, J=1.0 Hz, 1H), 9.03 (d, J=2.2 Hz, 1H), 8.69 (d, J=2.2 Hz, 1H), 8.51 (d, J=1.0 Hz, 1H), 7.72-7.60 (m, 4H), 6.12 (s, 2H), 3.74-3.65 (m, 4H), 3.37-3.22 (m, 2H), 2.16-1.40 (m, 10H), 1.06-0.97 (m, 2H), 0.00 (s, 9H). LCMS (Method B): RT=2.96 min, M+H+=524.

reactant | imidazole-1-carbothioic acid O-(8-{4-[6-cyano-9-(2-trimethylsilanylethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-3-yl]-benzyl}-8-aza-bicyclo[3.2.1]oct-3-yl) ester | 0.28 mmol, 182 mg | C(#N)C1=CC=2C3=C(N(C2C=N1)COCC[Si](C)(C)C)N=CC(=C3)C3=CC=C(CN1C2CC(CC1CC2)OC(=S)N2C=NC=C2)C=C3 | C35H39N7O2SSi
reactant | AIBN | 0.36 mmol, 60 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | tributyltin hydride | 1.85 mmol, 0.58 mL | C(CCC)[SnH](CCCC)CCCC
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[4-(8-Aza-bicyclo[3.2.1]oct-8-ylmethyl)-phenyl]-9-(2-trimethylsilanyl-ethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 123 mg, 84% | C12CCCC(CC1)N2CC2=CC=C(C=C2)C2=CC1=C(N(C3=C1C=C(N=C3)C#N)COCC[Si](C)(C)C)N=C2 | C31H37N5OSi
